US07767691B2
Preparation of 1-(cyclohexylmethyl)-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 1, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (33.0 mg, 0.118 mmol) and (bromomethyl)cyclohexane (0.03 mL, 0.21 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (7 mg, 13%). EI-MS m/z 376 (M+) Rt (1.90 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.118 mmol, 33.0 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | (bromomethyl)cyclohexane | 0.21 mmol, 0.03 mL | BrCC1CCCCC1 | C7H13Br
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 1-(cyclohexylmethyl)-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.1]heptane bromide | 7 mg, 13% | [Br-].C1(CCCCC1)C[N+]12CCC(CC1)(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C26H34NO.BrH/c28-26(23-12-6-2-7-13-23,24-14-8-3-9-15-24)25-16-18-27(21-25,19-17-25)20-22-10-4-1-5-11-22;/h2-3,6-9,12-15,22,28H,1,4-5,10-11,16-21H2;1H/q+1;/p-1
